US09315501B2
Step 5. 5-(2,4-Difluorophenoxy)-6-(6-methyl-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one
A solution of 5-(2,4-difluorophenoxy)-6-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-1,3-dihydro-2H-benzimidazol-2-one (0.024 g, 0.035 mmol) in ethanol (0.4 mL, 7 mmol) was treated with 1.0 M sodium hydroxide in water (0.18 mL, 0.18 mmol) and stirred at 80° C. for 30 min. Purification via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water 0.1% ammonium hydroxide, at flow rate of 30 mL/min) gave the desired product (3 mg, 20%). 1H NMR (500 MHz, DMSO-d6) δ 11.93 (br s, 1H), 10.62 (br s, 2H), 7.34-7.26 (m, 1H), 7.22 (d, J=2.8 Hz, 1H), 7.17 (s, 1H), 7.02-6.87 (m, 3H), 6.52 (s, 1H), 6.17 (d, J=2.7 Hz, 1H), 3.50 (s, 3H); LCMS calculated for C21H15F2N4O3 (M+H)+: m/z=409.1. found: 409.1.

reactant | 5-(2,4-difluorophenoxy)-6-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-1,3-dihydro-2H-benzimidazol-2-one | 0.035 mmol, 0.024 g | FC1=C(OC2=CC3=C(NC(N3)=O)C=C2C=2C3=C(C(N(C2)C)=O)N(C=C3)S(=O)(=O)C3=CC=C(C=C3)C)C=CC(=C1)F | C28H20F2N4O5S
reactant | ethanol | 7 mmol, 0.4 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
reactant | water | 0.18 mmol, 0.18 mL | O | H2O
product | 5-(2,4-Difluorophenoxy)-6-(6-methyl-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one | 3 mg, 20% | FC1=C(OC2=CC3=C(NC(N3)=O)C=C2C=2C3=C(C(N(C2)C)=O)NC=C3)C=CC(=C1)F | C21H14F2N4O3
